US07119109B2
c) 1,1-Dimethylethyl [3-[[3-cyano-6-(trifluoromethyl)-2-pyridinyl]oxy]pentyl]methylcarbamate
2-Chloro-6-(trifluoromethyl)nicotinonitrile (207 mg) and 1,1-dimethylethyl (3-hydroxypentyl)methylcarbamate (217 mg) were dissolved in dimethylformamide (10 ml) under nitrogen at room temperature. To the resulting solution was added sodium hydride (60% in oil) (80 mg). The solution was then allowed to stir at room temperature under nitrogen for 24 h. The mixture was then poured into water and extracted with diethyl ether three times. The combined organic fractions were washed with brine and then dried (MgSO4). The solvent was evaporated and the residue was purified by chromatography (silica, 25% ethyl acetate/isohexane as eluent) to give 175 mg (45%) of the subtitle compound as an oil.

reactant | 2-Chloro-6-(trifluoromethyl)nicotinonitrile | 207 mg | ClC1=C(C#N)C=CC(=N1)C(F)(F)F | C7H2ClF3N2
reactant | 1,1-dimethylethyl (3-hydroxypentyl)methylcarbamate | 217 mg | OC(CCN(C(OC(C)(C)C)=O)C)CC | C11H23NO3
reactant | sodium hydride | 80 mg | [H-].[Na+]
reactant | water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1,1-Dimethylethyl [3-[[3-cyano-6-(trifluoromethyl)-2-pyridinyl]oxy]pentyl]methylcarbamate | 175 mg, 45% | C(#N)C=1C(=NC(=CC1)C(F)(F)F)OC(CCN(C(OC(C)(C)C)=O)C)CC | C18H24F3N3O3
